US07435837B2
To a solution of 2-nitrophenol (13.9 g, 100 mmol) in N,N-dimethylformamide (300 mL) was added with sodium hydride (4.2 g, 100 mmol 60%) followed by allyl bromide (13.3 g, 110 mmol) and the reaction was allowed to stir at room temperature for 2 hours The reaction mixture was diluted with water (500 mL) to dissolve any solids and extracted with ethyl acetate (3×250 mL). The combined organic layers were washed with water (4×500 mL), saturated aqueous sodium chloride (400 mL), dried (magnesium sulfate) and the solvent removed in vacuo to give 1-(allyloxy)-2-nitrobenzene. The oil was re-dissolved in mesitylene (500 mL) and heated at reflux for 3 d. Removal of the solvent in vacuo provided a crude oil. Purification by flash column chromatography (silica, dichloromethane:hexanes 0.5:9.5) provided 6.8 g, (50%) of 2-allyl-6-nitrophenol as a yellow oil. To a solution of 2-allyl-6-nitrophenol (6.6 g, 36.84 mmol) in dichloromethane (300 mL) was added 3-chloroperoxybenzoic acid (77%, 16.5 g, 73.67 mmol) The reaction mixture was allowed to stir at room temperature for 8 h. The reaction mixture was washed with a 1:1 solution of 10% sodium sulfite:saturated sodium bicarbonate (2×300 mL). The solvent was removed in vacuo to give crude yellow oil. The oil was diluted with methanol (300 mL) and added to a solution of potassium carbonate (15.0 g, 108.5 mmol) the solution was allowed to stir at room temperature 2 h. The solvent was removed in vacuo. The residue was washed with water (1000 mL) and ethyl acetate (500 mL). The aqueous layer was acidified with 1 N aqueous hydrogen chloride and washed with ethyl acetate (500 mL). The combined organics were washed with water (500 mL), saturated aqueous sodium chloride (500 mL), dried (magnesium sulfate) and the solvent removed in vacuo to provide a crude solid. Purification by flash column chromatography (silica, dichloromethane:hexanes 4:10) provided 3.18 g (44%) of (±)-(7-nitro-2,3-dihydro-1-benzofuran-2-yl)methanol as yellow solid. mp 63-65° C.

reactant | 2-allyl-6-nitrophenol | 36.84 mmol, 6.6 g | C(C=C)C1=C(C(=CC=C1)[N+](=O)[O-])O | C9H9NO3
reactant | 3-chloroperoxybenzoic acid | 73.67 mmol, 16.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 108.5 mmol, 15.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | methanol | 300 mL | CO | CH4O
product | (±)-(7-nitro-2,3-dihydro-1-benzofuran-2-yl)methanol | 3.18 g, 44% | [N+](=O)([O-])C1=CC=CC=2CC(OC21)CO | C9H9NO4
